US07354932B2
To a solution of trans-4-aminocyclohexanol hydrochloride (10.0 g, 65.9 mmol) and triethylamine (18.4 mL, 132.0 mmol) in tetrahydrofuran (132 mL) was added di-tert-butyl dicarbonate (15.31 g, 70.1 mmol). The mixture was stirred at 25° C. under nitrogen for 17 h at which time ethyl acetate (250 mL) was added. The solution was washed with water (2×100 mL), dried (Na2SO4) and concentrated to afford (4-Hydroxy-cyclohexyl)-carbamic acid tert-butyl ester as a white solid (13.82 g, 97%). 1H NMR (CDCl3) δ 1.09-1.25 (m, 2H), 1.31-1.39(m, 2H), 1.44 (s, 9H), 1.94-2.03 (m, 4H), 3.42 (bs, 1H), 3.56-3.64 (m, 1H), 4.34 (bs, 1H).

reactant | trans-4-aminocyclohexanol hydrochloride | 65.9 mmol, 10.0 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | triethylamine | 132.0 mmol, 18.4 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 70.1 mmol, 15.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 132 mL | O1CCCC1 | C4H8O
product | (4-Hydroxy-cyclohexyl)-carbamic acid tert-butyl ester | 13.82 g, 97% | C(C)(C)(C)OC(NC1CCC(CC1)O)=O | C11H21NO3
